US08865682B2
To a stirred solution of 2-{[(3E)-3-(5,5-dimethyl-4-morpholin-4-ylfuran-2(5H)-ylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]thio}benzoic acid in 5 mL of anhydrous DMF, were added 2M methylamine in THF solution (0.066 mL, 0.13 mmol), HBTU (49 mg, 0.13 mmol) and DIPEA (31 mg, 0.24 mmol). The reaction mixture was stirred at room temperature for 15 minutes and poured into 100 mL of water. The precipitates were filtered, washed with water and dried to give the crude product as a brown solid. Purification of the crude product by silica gel chromatography eluted with a gradient of 5-15% MeOH in CHCl3 afforded 2-{[(3E)-3-(5,5-dimethyl-4-morpholin-4-ylfuran-2(5H)-ylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]thio}-N-methylbenzamide as brown solid. Yield: 6 mg, 12%.

reactant | 2-{[(3E)-3-(5,5-dimethyl-4-morpholin-4-ylfuran-2(5H)-ylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]thio}benzoic acid | CC1(C(=C/C(/O1)=C/1\C(NC2=CC(=CC=C12)SC1=C(C(=O)O)C=CC=C1)=O)N1CCOCC1)C | C25H24N2O5S
reactant | methylamine | 2M | CN | CH5N
reactant | THF | 0.13 mmol, 0.066 mL | C1CCOC1 | C4H8O
reactant | HBTU | 0.13 mmol, 49 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.24 mmol, 31 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-{[(3E)-3-(5,5-dimethyl-4-morpholin-4-ylfuran-2(5H)-ylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]thio}-N-methylbenzamide | CC1(C(=C/C(/O1)=C/1\C(NC2=CC(=CC=C12)SC1=C(C(=O)NC)C=CC=C1)=O)N1CCOCC1)C | C26H27N3O4S
